Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]#[C:11][H:12].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]#[C:11][H:12],-4.98149721369
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-1.98638689674
[C:1][C:2]([H:3])([H:4])[O:5][C:6][O:9][H:10].[C:7][H:8]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7][H:8])[O:9][H:10],-5.97839750337
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.27926218797
[C:3]([H:4])#[C:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-3.43301578823
[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[C:6]([H:7])=[C:8]([H:9])[O:10][H:11].[H:1][O:2][C:3]#[C:4][H:5],2.67524110717
[O:1]=[C:2]1[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]1([H:10])[H:11]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11],-0.6428153954
[C:5]([H:6])[C:7]([H:8])=[C:9][H:10].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])[C:7]([H:8])=[C:9][H:10],-2.45059237698
[H:3].[O:1]=[C:2]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1][C@@:2]([H:3])([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-0.776694222737
[O:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[O:1],7.861548901310001
[H:3].[O:1][C:2]#[C:4][O:5]>>[O:1][C:2]([H:3])=[C:4]=[O:5],-4.96789784523
[C:7]([H:8])([H:9])[H:10].[O:1][O:2][C:3]([H:4])[C:5]#[C:6]>>[O:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-4.96854422244
[H:1][C:2]=[C:3]([H:4])[H:5].[O:6]=[C:7][O:8][H:9]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][H:9],1.36924205669
[C:4]#[C:5][O:6][C:7]([H:8])[H:9].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7]([H:8])[H:9],-0.723925096499
[C:1][O:2][C:3]=[C:4]=[O:5]>>[C:1][O:2][C:3]#[C:4].[O:5],7.028741798139999
[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.93593574302
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9])[O:10][H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:10][H:11].[C:9],5.447378843790001
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7].[H:8],1.93353296489
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4]([H:5])[H:6],4.34909082926
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:10].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:11]([H:12])[H:13],1.8211291865
[H:1][C:2]=[C:3]1[C:4][C:5]([C:6]([H:7])([H:8])[H:9])[O:10]1>>[H:1][C:2]#[C:3][C:4][C:5]([C:6]([H:7])([H:8])[H:9])=[O:10],-2.05613276105
[H:5].[O:1][C@:2]([H:3])([C:4]#[C:6][H:7])[C:8]([H:9])([H:10])[C:11][H:12]>>[O:1][C@:2]([H:3])([C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[C:11][H:12],-2.22216424983
[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])([H:9])[H:10].[H:1]/[C:2]([O:3][C:4]([H:5])[H:6])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16],4.181931240980002
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.61742658692
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:3],3.93851593453
[O:1]=[C:2]([O:3][H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][O:3][H:4],4.96823056499
[C:6][O:7][H:8].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][H:8],-5.32208503165
[C:5][C:6]([H:7])([H:8])[H:9].[O:1][C:2]#[C:3][O:4]>>[O:1]=[C:2]=[C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9],-3.6115775029
[O:1][C:2]([H:3])([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[H:4],1.0931000834
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.8854846493
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:2]#[C:3][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:1][C:5]#[C:6][H:4],3.09208897111
